US05462952
5-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]-1,3,4-thiadiazol-2(3H)-thione
Carbon disulfide (100 μl, 1.58 mmol) is added dropwise to a room temperature solution of 2-[(2,6-dichloro-3-methylphenyl)amino]benzene carboximidic acid hydrazide (183.4 mg, 0.595 mmol) in 5 ml of methanol. The solution is stirred under a nitrogen atmosphere at room temperature for two hours and then concentrated. The residue is purified by chromatography eluting with ethyl acetate:hexane (1:4) to give 107.0 mg (49%) of a yellow solid, mp 250°-252° C. with decomposition.

reactant | Carbon disulfide | 1.58 mmol, 100 μl | C(=S)=S | CS2
reactant | 2-[(2,6-dichloro-3-methylphenyl)amino]benzene carboximidic acid hydrazide | 0.595 mmol, 183.4 mg | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C(=N)NN | C14H14Cl2N4
solvent | methanol | 5 ml | CO | CH4O
product | 5-[2-[(2,6-Dichloro-3-methylphenyl)amino]phenyl]-1,3,4-thiadiazol-2(3H)-thione | 107.0 mg, 49% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C1=NNC(S1)=S | C15H11Cl2N3S2
